US07094780B1
(f) 2,4,5-Trifluoro-3-methoxybenzoic acid ethyl ester
A solution of 2,4,5-trifluoro-3-methoxybenzoic acid (2.513 g, 12.19 mmol) in dichloromethane (50 mL) at 0° C. is treated with oxalyl chloride (5.4 mL, 61.9 mmol) followed by N,N-dimethylformamide (4 drops). The mixture is stirred at 0° C. for 5 minutes and then at room temperature for 2.5 hours. The mixture is concentrated to near dryness and then co-evaporated from benzene. The resulting acid chloride is diluted with dichloromethane (50 mL), cooled to 0° C., and then anhydrous ethanol (7.30 mL, 124 mmol) is added dropwise. The resulting solution is stirred at room temperature for 4.5 hours, poured into saturated NaHCO3 solution, and extracted with dichloromethane. The combined organic extracts are washed with brine, dried over Na2SO4, filtered, and concentrated under vacuum to afford the title compound as a light yellow liquid (2.82 g). 1H NMR (CDCl3): δ 7.47 (ddd, 1H), 4.39 (q, 2H), 4.05 (s, 3H), 1.40 (t, 3H).

reactant | 2,4,5-trifluoro-3-methoxybenzoic acid | 12.19 mmol, 2.513 g | FC1=C(C(=O)O)C=C(C(=C1OC)F)F | C8H5F3O3
reactant | oxalyl chloride | 61.9 mmol, 5.4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethanol | 124 mmol, 7.30 mL | C(C)O | C2H6O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 4 drops | CN(C=O)C | C3H7NO
product | 2,4,5-Trifluoro-3-methoxybenzoic acid ethyl ester | 2.82 g | C(C)OC(C1=C(C(=C(C(=C1)F)F)OC)F)=O | C10H9F3O3
